US04031219
N,N-Bis-[3-(3,4-dihydro-1,3-dioxo-2(1H)-isoquinolyl)-propyl]-amine was prepared analogous to Example 30 from 2.44 gm of isochroman-1,3-dione and N,N-bis-(3-amino-propyl)-amine. The hydrochloride was precipitated from acetone with ethereal hydrochloric acid. M.p. of the hydrochloride: 135° -140° C; yield: 0.17 gm (2.5% of the theory).

reactant | isochroman-1,3-dione | 2.44 gm | C1(OC(CC2=CC=CC=C12)=O)=O | C9H6O3
reactant | N,N-bis-(3-amino-propyl)-amine | NCCCNCCCN | C6H17N3
product | N,N-Bis-[3-(3,4-dihydro-1,3-dioxo-2(1H)-isoquinolyl)-propyl]-amine | O=C1N(C(CC2=CC=CC=C12)=O)CCCNCCCN1C(C2=CC=CC=C2CC1=O)=O | C24H25N3O4
